US07618960B2
Synthesis of [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholine-3-yl]methanol
A solution of 4 N hydrochloric acid in ethyl acetate (30 mL) was added to a solution of tert-butyl {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamate (3.55 g) in ethyl acetate (30 mL) at room temperature. The reaction solution was stirred at room temperature for one hour and then concentrated under reduced pressure. 10% palladium-carbon (containing 50% water, 167 mg) was added to a solution of the resulting residue in methanol (50 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for 18 hours. Palladium-carbon in the reaction solution was removed by filtration, and then the filtrate was concentrated under reduced pressure. A saturated sodium bicarbonate solution and ethyl acetate were added to the resulting residue, and the organic layer was separated. The organic layer was washed with brine. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.52 g of the title compound. The property values of the compound are as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | tert-butyl {(S)-1-benzyloxymethyl-2-[2-oxo-2-(3,4,5-trifluorophenyl)ethoxy]ethyl}carbamate | 3.55 g | C(C1=CC=CC=C1)OC[C@@H](COCC(C1=CC(=C(C(=C1)F)F)F)=O)NC(OC(C)(C)C)=O | C23H26F3NO5
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | [(3S,5R)-5-(3,4,5-trifluorophenyl)morpholine-3-yl]methanol | 1.52 g | FC=1C=C(C=C(C1F)F)[C@@H]1COC[C@@H](N1)CO | C11H12F3NO2
